US04918081
A mixture of 2-hydroxybenzyl alcohol (0.5 mol), α-chloroacetic acid (0.5 mol) and solid sodium hydroxide (1.0 mol) in water (1L) is heated at reflux for 6 h. After this time the solution is cooled to ambient temperature and acidified to pH 4 with a 10% solution of hydrogen chloride in water. The product crystalizes from the acidified solution and is isolated and dried by filtration to give 2-Carboxymethoxybenzylalcohol which is used directly in the next step.

reactant | 2-hydroxybenzyl alcohol | 0.5 mol | OC1=C(CO)C=CC=C1 | C7H8O2
reactant | α-chloroacetic acid | 0.5 mol | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | 1.0 mol | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | 2-Carboxymethoxybenzylalcohol | C(=O)(O)COC1=C(CO)C=CC=C1 | C9H10O4
